US03978121
A. 3-chloro-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cycloheptene
3,5-Dichloro-5H-dibenzo[a,d]cycloheptene, dissolved in absolute ether, is added dropwise with stirring to a solution containing one equivalent of 3-ethoxypropylmagnesium bromide in ether. The mixture is stirred at room temperature for 1 hour, then at reflux for 2 hours. The mixture then is cooled, treated with dilute hydrochloric acid and the ether separated, washed with water and dried. The product is isolated by evaporation of the ether.

reactant | 3,5-Dichloro-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)Cl)C1 | C15H10Cl2
reactant | 3-ethoxypropylmagnesium bromide | one equivalent | C(C)OCCC[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-chloro-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCOCC)C1 | C20H21ClO
